US06992087B2
Preparation of 5-bromo-3,6-diethyl-N-(5-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 3,6-diethyl-N-(5-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ) 7.18, 6.97, 6.79, 5.37, 4.53, 2.87-2.76, 2.70-2.64, 2.54, 2.01-1.86, 1.35-1.24; HRMS (FAB) calcd for C19H24BrN3O+H 390.1181, found 390.1186.

reactant | (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | BrC=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C17H20BrN3O
reactant | 3,6-diethyl-N-(5-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | C(C)C=1C(=NC(=CN1)CC)NC1CCCC2=C(C=CC=C12)OC | C19H25N3O
product | 5-bromo-3,6-diethyl-N-(5-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | BrC=1N=C(C(=NC1CC)NC1CCCC2=C(C=CC=C12)OC)CC | C19H24BrN3O
